US06562989B2
4-(4-trifluoromethylphenyl)benzonitrile (Table 10, Entry 3)
4-Chlorobenzonitrile (141 mg, 1.02 mmol) reacted with p-trifluoromethylphenylboronic acid using by 1/2 mol % of Pd(OAc)2/Ph5FcP(t-Bu)2 and KF (182 mg, 3.00 mmol) in THF solvent to give the title compound (236 mg, 96%) as a white solid after recrystallization from hexane: 1H-NMR (500 MHz, CDCl3): δ 7.78 (d, 2H, J=8.23 Hz), 7.76 (d, 2H, J=8.48 Hz), 7.71 (app.d, 4H, J=8.18 Hz). 13C{1H}-NMR (100 MHz, CDCl3): δ 111.92, 118.57, 142.61, 144.09, 123.95 (q, J=270.2 Hz), 126.04 (q, J=3.6 Hz), 127.60, 127.93, 130.63 (q, J=32.5 Hz), 132.76. 19F{1H}-NMR (MHz, CDCl3): δ −63.0. GC/MS(EI): m/z 247 (M+).

reactant | 4-Chlorobenzonitrile | 1.02 mmol, 141 mg | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | p-trifluoromethylphenylboronic acid | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | KF | 3.00 mmol, 182 mg | [F-].[K+]
solvent | THF | C1CCOC1 | C4H8O
product | 4-(4-trifluoromethylphenyl)benzonitrile | 236 mg, 96% | FC(C1=CC=C(C=C1)C1=CC=C(C#N)C=C1)(F)F | C14H8F3N
